US08389536B2
Step 2: Cyclopentyl-(5-phenylethynyl-pyridin-2-yl)-amine
5-Phenylethynyl-pyridin-2-ylamine (100 mg, 0.515 mmol), cyclopentanone (77 mg, 0.927 mmol) and 2-picoline borane (85 mg, 0.927 mmol) were dissolved in 5.5 ml MeOH:AcOH (10:1 v/v) and stirred for 48 hours at 40° C. MeOH was then evaporated and the residue was acidified to pH 1 with 6 ml 10% HCl. The resulting white suspension was stirred for 2 hours. The mixture was extracted with dichloromethane and brine. The pH of the aqueous layer was adjusted to 12 by addition of conc. NaOH and the mixture was extracted twice with dichloromethane. The organic extracts were dried with sodium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silicagel (heptane/ethyl acetate 100:0→50:50 gradient). The desired compound was obtained as a light yellow solid (70 mg, 53%), MS: m/e=263.3 (M+H+).

reactant | 5-Phenylethynyl-pyridin-2-ylamine | 0.515 mmol, 100 mg | C1(=CC=CC=C1)C#CC=1C=CC(=NC1)N | C13H10N2
reactant | cyclopentanone | 0.927 mmol, 77 mg | C1(CCCC1)=O | C5H8O
reactant | 2-picoline borane | 0.927 mmol, 85 mg | B.N1=C(C=CC=C1)C
solvent | MeOH AcOH | 5.5 ml | CO.CC(=O)O
product | Cyclopentyl-(5-phenylethynyl-pyridin-2-yl)-amine | C1(CCCC1)NC1=NC=C(C=C1)C#CC1=CC=CC=C1 | C18H18N2
